US08048982B2
In a four-neck flask, 6.66 g (59.4 mmol) of t-butokypotassium and 128 mL of t-butylalcohol were put in, agitated at a temperature of 82° C. for 30 minutes, dropped with 9.01 g (89.1 mmol) of acetylacetone for 12 minutes at the temperature, and then agitated for 2 hours. Thereafter, at 83° C., 12.8 g (purity 78.0%, 29.7 mmol) of 1,3-bis(bromomethyl)-2,4,5,6-tetrafluorobenzene was added for 25 minutes, and then agitated for 1 hour. Thereafter, 1.18 g (7.13 mmol) of potassium iodide was added at 82° C., and then agitated for 2 hours. After the solution was cooled down to a room temperature, it was added with 200 mL of diethylether, and 300 mL of water to be subjected to an extraction operation, and then an organic layer was separated from a water layer. The organic layer obtained was added with 300 mL of saturated aqueous salt solution and agitated, and then an organic layer was separated from a water layer, dried with anhydrous sodium sulfate, concentrated by distilling off the solvent, and then purified with silica gel column chromatography to obtain 7.2 g of a crude product. 4.66 g of the crude product obtained was re-crystallized with a mixed solvent of hexane and ethylacetate to obtain 1.46 g (yield 20%) of 3,3′-[2,4,5,6-tetrafluoro-1,3-phenylenebis(methylene)]bis(2,4-pentanedione)

reactant | t-butylalcohol | 128 mL | C(C)(C)(C)O | C4H10O
reactant | acetylacetone | 89.1 mmol, 9.01 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | 1,3-bis(bromomethyl)-2,4,5,6-tetrafluorobenzene | 29.7 mmol, 12.8 g | BrCC1=C(C(=C(C(=C1F)F)F)CBr)F | C8H4Br2F4
reactant | potassium iodide | 7.13 mmol, 1.18 g | [I-].[K+]
reactant | diethylether | 200 mL | C(C)OCC | C4H10O
solvent | water | 300 mL | O | H2O
product | 3,3′-[2,4,5,6-tetrafluoro-1,3-phenylenebis(methylene)]bis(2,4-pentanedione) | 1.46 g, yield 20% | FC1=C(C(=C(C(=C1CC(C(C)=O)C(C)=O)F)F)F)CC(C(C)=O)C(C)=O | C18H18F4O4
